US07576111B2
tert-Butyl (3R)-1-{4-[(5S)-5-({[(5-chloro-2-thienyl)carbonyl]amino}methyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}-2-oxo-3-pyrrolidinylcarbamate
170 mg (0.292 mmol) of N2-(tert-butoxycarbonyl)-N1-{4-[(5S)-5-({[(5-chloro-2-thienyl)carbonyl]amino}methyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}-D-methionineamide are dissolved in 2 ml of DMSO and admixed with 178.5 mg (0.875 mmol) of trimethylsulphonium iodide and 60.4 mg (0.437 mmol) of potassium carbonate, and the mixture is stirred at 80° C. for 3.5 hours. The mixture is then concentrated under high vacuum and the residue is washed with ethanol. 99 mg of the target compound remain.

reactant | N2-(tert-butoxycarbonyl)-N1-{4-[(5S)-5-({[(5-chloro-2-thienyl)carbonyl]amino}methyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}-D-methionineamide | 0.292 mmol, 170 mg | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)NC1=CC=C(C=C1)N1C(O[C@H](C1)CNC(=O)C=1SC(=CC1)Cl)=O | C25H31ClN4O6S2
reactant | trimethylsulphonium iodide | 0.875 mmol, 178.5 mg | [I-].C[S+](C)C
reactant | potassium carbonate | 0.437 mmol, 60.4 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | tert-Butyl (3R)-1-{4-[(5S)-5-({[(5-chloro-2-thienyl)carbonyl]amino}methyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}-2-oxo-3-pyrrolidinylcarbamate | ClC1=CC=C(S1)C(=O)NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)N1C([C@@H](CC1)NC(OC(C)(C)C)=O)=O | C24H27ClN4O6S
